US05236884
Sulfuryl chloride (54.1 g, 0.4 mol) was added dropwise with vigorous stirring over a 60 minute period to a solution of N-[4,4-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline, prepared as above (109 g, 0.378 mol) in dichloromethane (600 mL) at -10° C. The reaction mixture was maintained at this temperature for 3 hours after the addition had been completed. After this time, the mixture was allowed to warm to 0° C. and ice (approximately 50 mL) was added, with stirring. The organic layer was separated and washed with 50% saturated aqueous sodium chloride solution (2×500 mL), then dried over magnesium sulfate. Evaporation of the solvent afforded a brown oil which was stirred with ethanol (150 mL) to induce crystallization of the product. The resultant mixture was stored at 0° C. overnight. The solid product was removed by filtration, washed with cold ethanol and dried to afford N-[2-chloro-4,4,-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline (104.2 g, 85.4% yield) as a white crystalline solid which melted at 64.5°-65.5° C. The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | Sulfuryl chloride | 0.4 mol, 54.1 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-[4,4-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline | CC(C(CC(=O)NC1=C(C=C(C=C1)Cl)Cl)=O)(C)C | C13H15Cl2NO2
reactant | ethanol | 150 mL | C(C)O | C2H6O
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | N-[2-chloro-4,4,-dimethyl-3-oxopentanoyl]-2,4-dichloroaniline | 104.2 g, 85.4% yield | ClC(C(=O)NC1=C(C=C(C=C1)Cl)Cl)C(C(C)(C)C)=O | C13H14Cl3NO2
